US08193221B2
To a solution of 4-bromo-3-methyl-benzaldehyde (4.3 g) (Example I1) in ethanol (50 ml), were added at ambient temperature hydroxylamine hydrochloride (1.75 g), sodium acetate (2.07 g) and water (15 ml). The reaction mixture was stirred at ambient temperature for 3 hours. The reaction mixture was concentrated and the residue partitioned between ethyl acetate and aqueous sodium hydroxide (2M). The phases were separated and the organic phase was washed with brine, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 4:1) to give 4-bromo-3-methyl-benzaldehyde oxime (3.65 g) as a white solid. 1H-NMR (400 MHz, CDCl3): 8.05 (s, 1H), 7.50 (m, 2H), 7.25 (d, 1H), 2.40 (s, 3H) ppm.

reactant | 4-bromo-3-methyl-benzaldehyde | 4.3 g | BrC1=C(C=C(C=O)C=C1)C | C8H7BrO
reactant | hydroxylamine hydrochloride | 1.75 g | Cl.NO
reactant | sodium acetate | 2.07 g | C(C)(=O)[O-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-bromo-3-methyl-benzaldehyde oxime | 3.65 g | BrC1=C(C=C(C=NO)C=C1)C | C8H8BrNO
